US05886008
6-Chloro-5-nitronicotinamide
A mixture of 6hydroxy-5-nitronicotinic acid (1.33 g, 7.22 mmol), phosphorus pentachloride (1.5 g, 7.20 mmol, 1.0 eq), and phosphorus oxychloride (2.7 mL) was heated at 130° C. under nitrogen for 4 hours. The resultant solution was concentrated via evaporation under reduced pressure. The residual oil [presumed to be 6-chloro-5-nitronicotinic acid, acid chloride] was dissolved in a solution of tetrahydrofuran and methylene chloride (1:1, 20 mL), and this solution was cooled to -78° C. A solution of ammonia in THF (2.7M, 15 mL, 40 mmol, 5 eq) was added dropwise, and the resultant reaction solution was allowed to warm to room temperature. Water (50 mL) was then added, and the aqueous mixture was extracted with methylene chloride (2×50 mL). The extracts were combined, dried (Na2SO4), and evaporated under reduced pressure to afford the title compound (0.72 g, 3.57 mmol, 49%) as a yellow solid: 1H NMR (CD3OD) δ 9.05 (d, J=2.2 Hz, 1H), 8.81 (d, J=2.2 Hz, 1H), 4.88 (s, 2 exchangeable H); 13C NMR (CD3OD) δ 166.7, 152.5, 146.1, 135.0, 131.3; HRMS calculated for C6H4ClN3O3 200.9942, found 200.9938. Anal. calcd for C6H4ClN3O3 ; C, 35.75; H, 2.00; N, 20.85. Found: C, 35.41; H. 2.14; N, 20.29 .

reactant | 6hydroxy-5-nitronicotinic acid | 7.22 mmol, 1.33 g | OC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H4N2O5
reactant | phosphorus pentachloride | 7.20 mmol, 1.5 g, 1.0 eq | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 2.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
reactant | THF | 40 mmol, 2.7M, 15 mL, 5 eq | C1CCOC1 | C4H8O
reactant | Water | 50 mL | O | H2O
product | 6-Chloro-5-nitronicotinamide | 3.57 mmol, 0.72 g, 49% | ClC1=NC=C(C(=O)N)C=C1[N+](=O)[O-] | C6H4ClN3O3
